US04278793
(b) Ethyl 2-amino-thiazol-4-yl-glyoxylate
195 g of ethyl bromoacetylglyoxylate are added dropwise to a solution of 66 g of thiourea in 450 ml of water and 450 ml of ethanol at 5° and after the addition has ended, the mixture is stirred at room temperature for 30 minutes and at 50° for 30 minutes and, after adding active charcoal, the resulting reaction mixture is then filtered. The filtrate is brought to pH 7 by adding sodium bicarbonate solution, whereupon ethyl 2-amino-thiazol-4-ylglyoxylate crystallizes out in crystals of melting point 147°.

reactant | ethyl bromoacetylglyoxylate | 195 g | BrCC(=O)C(C(=O)OCC)=O | C6H7BrO4
reactant | thiourea | 66 g | NC(=S)N | CH4N2S
reactant | charcoal | C | CH4
solvent | water | 450 ml | O | H2O
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | Ethyl 2-amino-thiazol-4-yl-glyoxylate | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
